Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
Endoscopy ___
Capsule Endoscopy ___
 
History of Present Illness:
___ with history of GI bleed with unidentified etiology, 
gallstone pancreatitis requiring lap CCY (course c/b seizures 
thought triggered by pancreatitis and possible prior stroke) who 
presents from home with dark stools, abd pain, dysuria, 
polyuria.
In the ED, initial VS were: 98.5 76 179/62 18 100% RA
Exam notable for:
TTP RLQ, LLQ, suprapubic region
Labs showed:
Hgb 7.9
UA with few bacteria, lg leuk, 2 WBC
Lactate 1.5
Imaging showed:
CTA ABD/PELVIS
1. No evidence of active contrast extravasation into the bowel.
2. Colonic diverticulosis without diverticulitis.
3. Interval increased extrahepatic and central intrahepatic 
biliary dilation is likely due to post cholecystectomy status. 
Correlation with LFTs is Recommended and if there is continued 
concern for biliary obstruction, consider MRCP for further 
assessment.
Patient received:
___ 15:00 IV Morphine Sulfate 4 mg
___ 16:39 IV Esomeprazole sodium 40 mg
___ 17:59 IV Morphine Sulfate 4 mg
___ 20:19 IV Morphine Sulfate 4 mg
___ 21:54 IV CefTRIAXone
___ 22:23 PO/NG Atorvastatin 40 mg
___ 22:23 PO/NG Labetalol 200 mg
___ 22:23 PO LevETIRAcetam 1500 mg
___ 23:30 IV Ondansetron 4 mg ___
***1 unit PRBCs ___ @ 1752***
GI was consulted:
H/H down from discharge at 7.9/24.5. Discharged on ___ at 
8.9/27.2.
Recommend:
- 2 large bore IVs
- Trend CBC q12h
- IV PPI BID
- NPO at midnight
- Transfuse for hgb >7
- Plan for EGD in AM
Transfer VS were: 98.3 67 164/70 16 100% RA
On arrival to the floor, patient reports that she simply does 
not feel well. She has been unable to sleep, feeling weak upon 
standing, melena x 2 days, diffuse abdominal pain, and dysuria. 
She typically knows when she has a UTI, and these symptoms are 
consistent. She denies fevers, weight change, chest pain, 
shortness of breath.
Recently hospitalized ___ for weakness, thought ___ UTI 
and possible slow GI bleed. UTI grew pan-sensitive E coli 
treated with CTX -> ciprofloxacin. H/H trended, H pylori 
serology came back negative, patient did not undergo endoscopy. 
Discharge Hgb 8.9.
REVIEW OF SYSTEMS:
10 point ROS reviewed and negative except as per HPI
 
Past Medical History:
Gallstone pancreatitis status post cholecystectomy ___
Seizures in the setting of the above gallstone pancreatitis
Hypertension due to renal artery stenosis, difficult to control
Prior history of upper GI bleed from a likely AVM
Prior history of DVT no longer on anticoagulation
 
Social History:
___
Family History:
___ and found to be not relevant to this
illness/reason for hospitalization.  She specifically denies any
family history of seizures or strokes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.2 162/75 63 18 96% RA
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
ABDOMEN: slightly TTP diffusely
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE EXAM:
VS:  98.4 ___
GENERAL: NAD , pale
HEENT: AT/NC, anicteric sclera, pink conjunctiva, MMM  
NECK: supple 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB
ABDOMEN: Soft nondistended, tender over umbilicus, no 
rebound/guarding.
EXTREMITIES: no cyanosis, clubbing, or edema. Warm 
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
PSYCH: Appropriate affect 
 
Pertinent Results:
ADMISSION LABS:
___ 01:49PM BLOOD WBC-7.6 RBC-2.70* Hgb-7.9* Hct-24.5* 
MCV-91 MCH-29.3 MCHC-32.2 RDW-13.2 RDWSD-43.4 Plt ___
___ 01:49PM BLOOD Neuts-58.9 ___ Monos-6.2 Eos-5.4 
Baso-0.4 Im ___ AbsNeut-4.48 AbsLymp-2.19 AbsMono-0.47 
AbsEos-0.41 AbsBaso-0.03
___ 01:49PM BLOOD ___ PTT-30.9 ___
___ 01:49PM BLOOD Glucose-106* UreaN-15 Creat-1.0 Na-143 
K-4.3 Cl-103 HCO3-22 AnGap-18
___ 01:49PM BLOOD ALT-15 AST-15 LD(LDH)-136 AlkPhos-62 
TotBili-0.2
___ 05:05AM BLOOD Calcium-9.4 Phos-4.1 Mg-1.9
___ 02:09PM BLOOD Lactate-1.5

IMAGING:

KUB ___:
1. Enteric capsule in the small bowel of the left lower abdomen 
in similar position to the study 2 days ago.
2. Nonobstructive bowel gas pattern.

KUB ___:
Enteric capsule in the left lower abdomen.

GI Endoscopy ___:
Angioectasias in the body (thermal therapy)
Otherwise normal EGD to third part of the duodenum

CTA ABD/PELVIS ___:
1. No evidence of active contrast extravasation into the bowel.
2. Colonic diverticulosis without diverticulitis.
3. Interval increased extrahepatic and central intrahepatic
biliary dilation is likely due to post cholecystectomy status.
Correlation with LFTs is Recommended and if there is continued
concern for biliary obstruction, consider MRCP for further
assessment.

DISCHARGE LABS:
___ 05:15AM BLOOD WBC-4.8 RBC-2.66* Hgb-7.8* Hct-24.7* 
MCV-93 MCH-29.3 MCHC-31.6* RDW-13.2 RDWSD-44.8 Plt ___
___ 05:00AM BLOOD Glucose-93 UreaN-9 Creat-1.0 Na-144 K-4.7 
Cl-105 HCO3-26 AnGap-13
___ 05:15AM BLOOD ___ PTT-31.1 ___
___ 05:00AM BLOOD ALT-10 AST-9 AlkPhos-55 TotBili-0.3
___ 05:00AM BLOOD Calcium-9.1 Phos-4.2 Mg-2.___ with history of recurrent GIB of unidentified source who 
presents with melena, drop in H/H, and abdominal pain also with 
UTI and GPC bactermia.

#Acute blood loss anemia
#Melena,Upper GI bleeding: suspect recurrence of prior GIB. Has 
had reported extensive workup in past at hospital in ___ 
including capsule study. Required 3 transfusions in ___. No 
endoscopy in our system. Prior thought to be AVM in small bowel. 
EGD showed angiectasias in the body of the stomach. No further 
bleeding while inpatient. Capsule endoscopy ___ was 
complicated by poor transit time through the stomach and poor 
bowel prep. Capsule remained in colon by day of discharge, will 
need visualization in stool or KUB ___ to ensure passage. Will 
need to be repeated as an outpatient.
   
#Staph bacteremia, contaminant:
Coag negative staph and staph hemolyticus growing out of initial 
cultures. Unclear if contaminant however as affecting 2 out of 2 
bottles. Patient without white count or systemic symptoms of 
infection and no further positive cultures. Treated with 
vancomycin until preantibiotic repeat cultures resulted 
negative. Overall thought to be contaminant.
   
#UTI/Dysuria/suprapubic pain: in setting of recent E coli in 
urine, dysuria, and suprapubic tenderness, concern for UTI 
despite equivocal urine. Initial urine culture was contaminated. 
Postvoid residual was 0. Pain was managed with Tylenol and 
oxycodone. S/p ceftriaxone x 3 days for presumed UTI.

#Abdominal pain: Patient had some gassy abdominal pain following 
MoviPrep. Treated with simethicone. She subsequently had 
abdominal pain following jerking with subcu heparin injection; 
abdominal exam benign.

#History of seizure: per neuro notes, thought triggered by 
pancreatitis vs prior stroke. Continued Keppra

#HA: Likely related to SBPs in 190s. Pain management with 
Tylenol/oxycodone. Avoided NSAIDs given GIB. Trialed fioricet. 

#Dizziness, bradycardia: Patient endorsed significant dizziness 
during hospitalization. Was bradycardic to the ___ on home 
labetalol. Labetalol was discontinued and patient was treated 
with IV fluids.

#HTN: HTN to 190s inpatient. Restarted home amlodipine, 
lisinopril. 

#HLD: atorvastatin. Restarted Asa on discharge. 

#Chronic pain in bilateral legs: no longer takes oxycodone at 
home. Not a complaint here. 

#CTA findings of intrahepatic biliary dilation: likely ___ 
post-CCY state. LFTs negative. No RUQ pain. 

TRANSITIONAL ISSUES:
====================
[] Outpatient follow up with Dr. ___ on ___ as already 
scheduled to determine whether EGD for capsule placement is 
needed
[] Titrate antihypertensives 
[] Labetalol was held for bradycardia
[] Needs KUB ___ to ensure passage of capsule 

#CODE: Full (confirmed) 
#CONTACT: ___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY hypertension 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. LevETIRAcetam 1500 mg PO Q12H 
5. Labetalol 400 mg PO BID Hypertension 
6. Famotidine 20 mg PO BID 
7. Ondansetron 4 mg PO Q8H:PRN nausea 
8. Pantoprazole 40 mg PO Q12H 
9. Lisinopril 40 mg PO DAILY 

 
Discharge Medications:
1.  Simethicone 40-80 mg PO QID:PRN abd pain 
RX *simethicone 80 mg 1 tab by mouth four times a day Disp #*80 
Tablet Refills:*0 
2.  amLODIPine 10 mg PO DAILY hypertension  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Famotidine 20 mg PO BID  
6.  LevETIRAcetam 1500 mg PO Q12H  
7.  Lisinopril 40 mg PO DAILY  
8.  Ondansetron 4 mg PO Q8H:PRN nausea  
9.  Pantoprazole 40 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Upper GI bleed
UTI
Bacteremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were seen at ___ for gastrointestinal bleed.  You 
underwent an endoscopic procedure that showed a small blood 
vessel abnormality in your stomach.  We suspected that a similar 
abnormality in your small bowel could be the cause of your 
bleed.  We tried to verify this with the capsule endoscopy, 
however the images were of poor quality.  You may need to have 
this capsule study repeated as an outpatient.  You may require 
further transfusions in the future.

You also had some burning pain in her lower abdomen that was 
likely due to a urinary tract infection.  You were treated with 
antibiotics for this.

Your initial blood cultures showed growth of some bacteria.  
Given that you did not have symptoms of a bloodstream infection, 
it is likely that these were a contaminant.  You were treated 
with antibiotics while we waited for these bacterial colonies to 
grow enough to be identified as contaminants from your skin. 

Please take all your medications as prescribed and follow-up at 
your outpatient appointments.

It was a pleasure taking care of you,

Your ___ team
 
Followup Instructions:
___